US06335459B1
Tert-butyl bromoacetate (1.08 mL, 7.27 mmol) and potassium carbonate (2.01 g, 14.55 mmol) were added to a solution of 3-bromo-2-methylphenol (1.29 g, 6.92 mmol) in acetone (17 mL), and the mixture was stirred at room temperature for 5 hours under a nitrogen atmosphere. The mixture was filtered, and the filtrate was evaporated to dryness to give (3-bromo-2-methylphenoxy)acetic acid tert-butyl ester as a pale yellow oil (2.12 g, 100%).

reactant | Tert-butyl bromoacetate | 7.27 mmol, 1.08 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | potassium carbonate | 14.55 mmol, 2.01 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromo-2-methylphenol | 6.92 mmol, 1.29 g | BrC=1C(=C(C=CC1)O)C | C7H7BrO
solvent | acetone | 17 mL | CC(=O)C | C3H6O
product | (3-bromo-2-methylphenoxy)acetic acid tert-butyl ester | 2.12 g, 100% | C(C)(C)(C)OC(COC1=C(C(=CC=C1)Br)C)=O | C13H17BrO3
